US04434182
In a manner similar to Example 2, the reaction of 0.59 g (0.003 mole) of (E)-(4-chlorophenyl)(cyclopropyl)methanone oxime with 0.072 g (0.003 mole) of sodium hydride and 0.72 g (0.003 mole) of 3-chloromethyl-2,6-difluoro[1,1'-biphenyl] in 25 ml of a 20% solution of N,N-dimethylformamide in toluene produced (E)-(4-chlorophenyl)(cyclopropyl)methanone O-[(2,6-difluoro[1,1'-biphenyl]-3-yl)methyl]oxime as an oil.

reactant | (E)-(4-chlorophenyl)(cyclopropyl)methanone oxime | 0.003 mole, 0.59 g | ClC1=CC=C(C=C1)/C(=N/O)/C1CC1 | C10H10ClNO
reactant | sodium hydride | 0.003 mole, 0.072 g | [H-].[Na+]
reactant | 3-chloromethyl-2,6-difluoro[1,1'-biphenyl] | 0.003 mole, 0.72 g | ClCC=1C(=C(C(=CC1)F)C1=CC=CC=C1)F | C13H9ClF2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-(4-chlorophenyl)(cyclopropyl)methanone O-[(2,6-difluoro[1,1'-biphenyl]-3-yl)methyl]oxime | FC1=C(C(=CC=C1CO\N=C(/C1CC1)\C1=CC=C(C=C1)Cl)F)C1=CC=CC=C1 | C23H18ClF2NO
